US04230635
N-[4-(hexafluoro-2-hydroxy-2-propyl)-2-methyl-1-naphthyl]methanesulfonamide
To 3.23 g (10 mmole) 4-(hexafluoro-2-hydroxy-2-propyl)-2-methyl-1-naphthylamine in 25 ml pyridine add 1.25 g (11 mmole) methanesulfonyl chloride. After 2 hours, pour onto water and extract with Et2O. Wash with 1N HCl, and then extract with 1N NaOH. Acidify with concentrated HCl, extract with Et2O, dry and concentrate. Recrystallize from Et2O-hexane to obtain the product; m.p. 174° C.

reactant | 4-(hexafluoro-2-hydroxy-2-propyl)-2-methyl-1-naphthylamine | 10 mmole, 3.23 g | FC(C(C(F)(F)F)(O)C1=CC(=C(C2=CC=CC=C12)N)C)(F)F | C14H11F6NO
reactant | methanesulfonyl chloride | 11 mmole, 1.25 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(hexafluoro-2-hydroxy-2-propyl)-2-methyl-1-naphthyl]methanesulfonamide | FC(C(C(F)(F)F)(O)C1=CC(=C(C2=CC=CC=C12)NS(=O)(=O)C)C)(F)F | C15H13F6NO3S
